US08633175B2
Step 2: 3′-(1H-pyrazol-3-yl)-4-biphenylcarbaldehyde
To a solution of [3-(4′-formyl-3-biphenylyl)-1H-pyrazol-1-yl]methyl 2,2-dimethyl-propanoate (0.162 g; 0.45 mmol) in 1:1 THF/MeOH (5 mL total vol) at room temperature was added NaOH (1.1 mL of a 1.0M solution; 1.1 mmol). After 30 min, HOAc (0.08 mL; 1.4 mmol) was added and the mixture was concentrated in vacuo. The residue was partitioned between EtOAc/water, layers were separated, the organic layer was washed (satd NaHCO3, brine), dried over Na2SO4 and concentrated in vacuo. The residue was redissolved in EtOAc, washed (1M HCl, water, brine), dried over Na2SO4 and concentrated in vacuo, affording the title compound as a glassy semi-solid which was used without further purification. LC/MS (method A) 2.42 min; m/z 249 (M+H).

reactant | [3-(4′-formyl-3-biphenylyl)-1H-pyrazol-1-yl]methyl 2,2-dimethyl-propanoate | 0.45 mmol, 0.162 g | CC(C(=O)OCN1N=C(C=C1)C=1C=C(C=CC1)C1=CC=C(C=C1)C=O)(C)C | C22H22N2O3
reactant | NaOH | [OH-].[Na+]
reactant | HOAc | 1.4 mmol, 0.08 mL | CC(=O)O | C2H4O2
solvent | THF MeOH | 5 mL | C1CCOC1.CO
product | 3′-(1H-pyrazol-3-yl)-4-biphenylcarbaldehyde | N1N=C(C=C1)C=1C=C(C=CC1)C1=CC=C(C=C1)C=O | C16H12N2O
